US09227971B2
Step 1: Preparation of 2-bromo-1-(5-bromopyridin-2-yl)ethanone
1-(5-bromopyridin-2-yl)ethanone (200 mg, 1.0 mmol) was dissolved in Acetic acid (50 mL) and HBr in Acetic acid (48% solution, 280 uL) was added along with water (100 uL). Warmed to 70 C and added Bromine (51.5 uL, 1.0 mmol) and stirred for 1 hour. The reaction was concentrated to give the desired product (280 mg) containing a small amount of dibrominated product. This material was used as is.

reactant | 1-(5-bromopyridin-2-yl)ethanone | 1.0 mmol, 200 mg | BrC=1C=CC(=NC1)C(C)=O | C7H6BrNO
reactant | HBr | Br | BrH
reactant | water | 100 uL | O | H2O
reactant | Bromine | 1.0 mmol, 51.5 uL | BrBr | Br2
solvent | Acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | Acetic acid | 280 uL | C(C)(=O)O | C2H4O2
product | 2-bromo-1-(5-bromopyridin-2-yl)ethanone | 280 mg | BrCC(=O)C1=NC=C(C=C1)Br | C7H5Br2NO
